US06307043B1
2-((5,6-Dichloro-1-(beta-L-ribofuranosyl)-1H-benzimidazol-2-yl)amino)ethanol
Ethanolamine (25 ml) and 2-bromo-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole (0.62 g, 1.2 mmol) were combined with absolute ethanol (50 mL) and stirred at 80° C. for 24 h. The reaction mixture was concentrated and purified on a silica gel column (2.5 cm×16 cm, 230-400 mesh) with 1:20 methanol:dichloromethane (500 mL), then 1:9 methanol:dichloromethane. Crude product was obtained which was ether purified on a silica gel filter pad with 1:1 acetone: dichloromethane and then with 1:2 ethanol:dichloromethane. Further purification on a chromatotron fitted with a 2 mm rotor, using 1:6 ethanol:ethyl acetate provided pure product (0.064 g, 0.17 mmol, 14%); [a]20D=(−) 14.2 (c=0.5 DMF).

reactant | Ethanolamine | 25 ml | C(O)CN | C2H7NO
reactant | 2-bromo-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole | 1.2 mmol, 0.62 g | BrC1=NC2=C(N1[C@@H]1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O1)COC(C)=O)C=C(C(=C2)Cl)Cl | C18H17BrCl2N2O7
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | ether | CCOCC | C4H10O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-((5,6-Dichloro-1-(beta-L-ribofuranosyl)-1H-benzimidazol-2-yl)amino)ethanol | ClC1=CC2=C(N(C(=N2)NCCO)[C@@H]2[C@@H](O)[C@@H](O)[C@@H](O2)CO)C=C1Cl | C14H17Cl2N3O5
